US04367235
4-(2- Hydroxy-3-tert.-butylaminopropoxy)-6-methyl-2-benzimidazolinone
A moderate stream of phosgene is passed into a solution of 5.8 g. 2,3-diamino-1-(2-hydroxy-3-tert.-butylaminopropoxy)-5-methylbenzene trihydrochloride in 150 ml. water for about 30 minutes. After flushing with nitrogen, the reaction mixture is evaporated to dryness and the residue crystallised from ethanol to give 3.04 g. (61% of theory) 4-(2-hydroxy-3-tert.-butylaminopropoxy)-6-methyl-2-benzimidazolinone hydrochloride; m.p. 280°-281° C.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 2,3-diamino-1-(2-hydroxy-3-tert.-butylaminopropoxy)-5-methylbenzene trihydrochloride | Cl.Cl.Cl.NC1=C(C=C(C=C1N)C)OCC(CNC(C)(C)C)O
reactant | 4-(2-hydroxy-3-tert.-butylaminopropoxy)-6-methyl-2-benzimidazolinone hydrochloride | Cl.OC(COC1=CC(=CC=2NC(NC21)=O)C)CNC(C)(C)C
solvent | water | O | H2O
product | 4-(2- Hydroxy-3-tert.-butylaminopropoxy)-6-methyl-2-benzimidazolinone | OC(COC1=CC(=CC=2NC(NC21)=O)C)CNC(C)(C)C | C15H23N3O3
